US07777047B2
N-methyl-N-(2-{8-[(1-methyl-1H-imidazol-2-yl)methyl]-1-thia-3,8-diazaspiro[4.5]dec-2-en-2-yl}-1H-indol-7-yl)thiophene-2-sulfonamide
To a solution of N-methyl-N-[2-(1-thia-3,8-diazaspiro[4.5]dec-2-en-2-yl)-1H-indol-7-yl]thiophene-2-sulfonamide (100 mg) and 1-methyl-1H-imidazole-2-carbaldehyde (33 mg) in tetrahydrofuran (3 ml) was added sodium triacetoxyborohydride (125 mg), and the mixture was stirred at room temperature for 18 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. The obtained residue was subjected to silica gel column chromatography to give the title compound (14 mg, yield 12%) as colorless crystals from a fraction eluted with ethyl acetate. melting point 103° C.

reactant | N-methyl-N-[2-(1-thia-3,8-diazaspiro[4.5]dec-2-en-2-yl)-1H-indol-7-yl]thiophene-2-sulfonamide | 100 mg | CN(S(=O)(=O)C=1SC=CC1)C=1C=CC=C2C=C(NC12)C=1SC2(CN1)CCNCC2 | C20H22N4O2S3
reactant | 1-methyl-1H-imidazole-2-carbaldehyde | 33 mg | CN1C(=NC=C1)C=O | C5H6N2O
reactant | sodium triacetoxyborohydride | 125 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Water | O | H2O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | N-methyl-N-(2-{8-[(1-methyl-1H-imidazol-2-yl)methyl]-1-thia-3,8-diazaspiro[4.5]dec-2-en-2-yl}-1H-indol-7-yl)thiophene-2-sulfonamide | 14 mg, yield 12% | CN(S(=O)(=O)C=1SC=CC1)C=1C=CC=C2C=C(NC12)C=1SC2(CN1)CCN(CC2)CC=2N(C=CN2)C | C25H28N6O2S3
